US07034052B2
To a solution of (1S)-1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine (0.35 g, 1.2 mmol) in DMF (10 ml) was added 2-bromomethyl-3-bromo-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (0.45 g, 1.1 mmol) and triethyl amine (0.5 ml, 3.3 mmol). The mixture was heated at 90° C. overnight. The solvent was removed in vacuo. The resulted oil was extracted with ethyl acetate (50 ml) and water (30 ml). The organic layer was washed with water (30 ml×2), brine (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo and the resulted oil was purified by silica gel column to give (1S)-cyclopropanecarboxylic acid {7-bromo-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (450 mg, 74%): mp, 219–221° C.; 1H NMR (CDCl3) δ 0.89–0.93 (m, 2H, c-CH2), 1.08–1.14 (m, 2H, c-CH2), 1.47 (t, J=7.0 Hz, 3H, OCH2CH3), 1.65–1.70 (m, 1H, c-CH), 2.98 (s, 3H, CH3SO2), 3.70 (dd, J=5, 15 Hz, 1H, CHH), 3.87(s, 3H, OCH3), 4.06–4.14 (m, 3H, NCHH+OCH2CH3), 4.19 (dd, J=10, 15 Hz, 1H, CHH), 4.55 (d, J=17 Hz, 1H, CH), 5.75–5.81 (m, 1H, CHN), 6.86–6.96 (m, 3H, Ar), 7.53 (d, J=9 Hz, 1H, Ar), 8.40(d, J=9 Hz, 1H, Ar), 10.38 (s, 1H, NHCO). 13CNMR (CDCl3): δ 9.1, 9.2, 15.4, 16.9, 42.2, 49.1, 52.0, 56.1, 56.7, 65.3, 110.1, 112.3, 112.8, 119.5, 119.9, 120.7, 129.7, 136.8, 138.1, 142.0, 149.6, 150.5, 170.0, 173.3; Anal Calcd for C24H27BrN2O6S: C, 52.27; H, 4.94; N, 5.08. Found: C, 52.57; H, 4.68; N, 4.95.

reactant | (1S)-1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine | 1.2 mmol, 0.35 g | C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N | C12H19NO4S
reactant | 2-bromomethyl-3-bromo-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 1.1 mmol, 0.45 g | COC(C1=C(C(=CC=C1NC(=O)C1CC1)Br)CBr)=O | C13H13Br2NO3
reactant | triethyl amine | 3.3 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (1S)-cyclopropanecarboxylic acid {7-bromo-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 450 mg, 74% | BrC=1C=CC(=C2C(N(CC12)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)NC(=O)C1CC1 | C24H27BrN2O6S
